data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
56,67,[CH3:1][O:2][C:3]#[C:4][C:5]#[N:6].[N:7]#[C:8][CH-:9][N+:10]#[C:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:9]([C:8]#[N:7])[N:10]=[C:11]1[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,13.939306376283724,-70.68227463257749
986,1071,[CH3:12][O:13][C:14](=[O:15])[C:16]([CH3:17])=[NH+:18][C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:19]([C:20]#[N:21])([C:22]([CH3:23])=[O:24])[NH:18][C:16]2([C:14]([O:13][CH3:12])=[O:15])[CH3:17],water,298.15,14.829258187163964,-21.065184231323613
3745,4283,[CH3:10][NH:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][C-:17]([CH3:18])[CH3:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[O:16][C:17]1([CH3:18])[CH3:19],water,298.15,17.61420235460801,-50.2104306894878
1761,1951,[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]([C:13]([O:12][CH3:11])=[O:14])=[N:16][C:17]2([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,10.58826462415612,-43.42475497353112
2221,2462,[CH3:17][NH:18][C:19](=[O:20])[CH-:21][NH+:22]=[C:23]([C:24]#[N:25])[C:26](=[O:27])[NH:28][CH3:29].[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([Cl:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([Cl:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:23]([C:24]#[N:25])([C:26](=[O:27])[NH:28][CH3:29])[NH:22][CH:21]2[C:19]([NH:18][CH3:17])=[O:20],water,298.15,11.504505129457211,-34.486983153578954
4917,5602,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([C:12]#[N:13])[NH+:14]=[C:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12]#[N:13])[NH:14][C:15]1([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,38.89400646456985,7.908331047284204
1268,1386,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][F:7].[CH3:8][NH:9][C:10](=[O:11])[C-:12]([C:13]([CH3:14])=[O:15])[N+:16]([CH3:17])=[C:18]([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[C:18]([C:19]#[N:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:16]([CH3:17])[C:12]1([C:10]([NH:9][CH3:8])=[O:11])[C:13]([CH3:14])=[O:15],water,298.15,13.619585622070634,-65.00803622298221
4155,4758,[CH3:10][O:11][C:12](=[O:13])[N-:14][NH+:15]=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:14]([C:12]([O:11][CH3:10])=[O:13])[NH:15][CH:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,30.8333710714068,1.9369083765945865
798,865,[CH3:10][C:11](=[O:12])[CH-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[C:19]#[N:20].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:16]([C:17]#[N:18])([C:19]#[N:20])[N:14]([CH3:15])[CH:13]2[C:11]([CH3:10])=[O:12],water,298.15,16.32018569286949,-30.987494749332978
3170,3578,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][CH:8]=[NH+:9][N-:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:8]([CH3:7])[NH:9][N:10]1[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,17.763211117647636,-13.281072688524237
2552,2832,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([C:15]([F:16])([F:17])[F:18])([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][NH:28][C:29](=[O:30])[CH-:31][N+:32]#[C:33][C:34]#[N:35]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([C:15]([F:16])([F:17])[F:18])([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1)[CH:31]([C:29]([NH:28][CH3:27])=[O:30])[N:32]=[C:33]2[C:34]#[N:35],water,298.15,12.35656362291538,-59.09311217619168
4544,5184,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)=[N+:22]([CH3:23])[NH-:24]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:22]([CH3:23])[NH:24]2,water,298.15,25.14051529045812,-9.180355538589357
